Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
confusion following a fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
GCS Score at the Scene: ----- [X] Unknown 
- If unknown, GCS score at presentation to our ED: ___

ICH volume by ABC/2 method: 7.6 cc

ICH Score: 1

Pre-ICH mRS ___ social history for description): 3

HPI: The patient is a ___ woman with a past medical
history of dementia who presents with confusion following a fall
(unclear etiology) with noncontrast head CT showing a right
intraparenchymal hemorrhage in the occipital lobe.  History is
provided with the assistance of patient's 3 grandchildren at
bedside.

Patient lives with her daughter and son-in-law.  She is able to
walk independently and occasionally uses a cane.  She needs
assistance with all of her activities of daily living including
getting dressed and showering.  She wears diapers and needs
assistance when she uses the bathroom.  She cannot cook or 
clean.
At baseline, she does not know the date.  She likes to watch TV.

On the day prior to presentation, she slid out of her recliner 
in
the evening.  She hit her buttock and did not hit her head. 
Overnight, her daughter awoke around 2:30 AM to hear a thud.  
She
found patient in her bedroom on the ground.  The room was
somewhat disorganized and the pictures on the nightstand were 
all
on the ground.  This had never happened before.  Patient is
unaware as to how she fell and she states that she might of
gotten up to use the bathroom.

Patient was initially brought to ___ where she was
found to have a urinary tract infection (she was given
ceftriaxone) and a noncontrast head CT showed a right occipital
lobe hemorrhage.  She was transferred to ___ for further
management.

At the time of my evaluation, patient reports a right-sided
headache that has now improved after receiving Tylenol.  She 
does
not know why she is in the hospital and has no other complaints.

Of note, patient reportedly also fell 1 week ago while walking 
in
the kitchen.  She slid and landed on her buttock at the time and
did not reportedly hit her head.

ROS unable to be reliably obtained.

 
Past Medical History:
Dementia (unclear subtype)  
Hypothyroidism
Osteoarthritis in hips                              

 
Social History:
___
Family History:
Daughter: ___ 
 
Physical ___:
ADMISSION PHYSICAL EXAM: 
Vitals: 98.4 80 111/62 97% RA
General: NAD, resting in bed, chronically ill-appearing
HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Drowsy but arouses to voice.  Does not answer
questions when asked the date.  When asked where she is, she
answers shopping mall on multiple choice testing (grandchildren
state that this is her baseline).  Unable to answer the question
who is her president.  Able to follow simple commands both
appendicular (show me your thumb, show me 2 fingers) and midline
(stick out your tongue).  Speaks ___ word phrases fluently.
Inattentive during examination and frequently has to be
redirected.  Does not attend as well to the left visual field. 

- Cranial Nerves - PERRL 3->2 brisk.  Left homonymous
hemianopsia. EOMI, no nystagmus. V1-V3 without deficits to light
touch bilaterally. No facial movement asymmetry. Hearing intact
to finger rub bilaterally. Mild dysarthria. Palate elevation
symmetric. Tongue midline.

- Motor - Normal bulk and tone. L upward drift. No tremor or
asterixis. Strength is grossly intact throughout.

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.

-DTRs: ___ hypoactive throughout.  Plantar response 
extensor
on the left and mute on the right.

- Coordination - Hesitates with finger-nose-finger testing
bilaterally but grossly intact.

- Gait - Deferred.

DISCHARGE PHYSICAL EXAM: 
Vitals: Tm 98.7, HR 74-88, BP 104-143/67-83, RR ___, >91%RA
Gen: older woman sitting in bed, NAD
HEENT: NCAT, no bruising appreciated, no oropharyngeal lesions, 
moist mucous membranes
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert, oriented to self, place 
(hospital, ___, not to season (___). Names spoon and 
coffee. Able to follow simple midline and appendicular commands 
but requires significant redirection.  Speaks ___ word phrases 
fluently. Does not attend as well to the left visual field. 

- Cranial Nerves - PERRL 3->2 brisk.  Left homonymous 
hemianopia. EOMI, no nystagmus. V1-V3 without deficits to light 
touch bilaterally. No facial movement asymmetry. Hearing intact
to finger rub bilaterally. Mild dysarthria. Palate elevation
symmetric. Tongue midline.

- Motor - Normal bulk and tone. Moves all extremities 
antigravity. No tremor or
asterixis. Strength is grossly intact throughout.

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.

-DTRs: ___ hypoactive throughout.  Plantar response 
extensor
on the left and mute on the right.

- Coordination - Hesitates with finger-nose-finger testing
bilaterally but grossly intact.

- Gait - able to stand and pivot with assistance.

 
Pertinent Results:
___ 05:00AM BLOOD WBC-6.3 RBC-3.55* Hgb-10.8* Hct-33.2* 
MCV-94 MCH-30.4 MCHC-32.5 RDW-14.1 RDWSD-48.7* Plt ___
___ 03:45PM BLOOD Neuts-74.5* Lymphs-13.9* Monos-10.4 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-6.90* AbsLymp-1.29 
AbsMono-0.96* AbsEos-0.04 AbsBaso-0.03
___ 03:45PM BLOOD ___ PTT-27.2 ___
___ 05:00AM BLOOD Glucose-84 UreaN-17 Creat-0.8 Na-139 
K-4.0 Cl-104 HCO3-24 AnGap-15
___ 05:00AM BLOOD cTropnT-<0.01
___ 05:00AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.1
___ 05:00AM BLOOD WBC-6.7 RBC-3.55* Hgb-10.7* Hct-33.3* 
MCV-94 MCH-30.1 MCHC-32.1 RDW-14.0 RDWSD-47.5* Plt ___
___ 03:45PM BLOOD ___ PTT-27.2 ___
___ 05:00AM BLOOD Glucose-93 UreaN-13 Creat-0.8 Na-140 
K-4.0 Cl-102 HCO3-21* AnGap-21*
___ 05:00AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.2

IMAGING: 

OSH CT ___, 10:45a): Right occipital lobe IPH. 
?layering with
hypodensity extending into the right occipital lobe.

MRI/A ___:
IMPRESSION: 
1. Grossly unchanged 29 x 19 mm acute right occipital 
intraparenchymal 
hemorrhage without definite underlying enhancing mass.  However, 
a prominent adjacent vessel is seen which could potentially 
represent draining veins in the setting of arteriovenous 
malformation, or possibly a developmental venous anomaly which 
could suggest an underlying cavernous malformation, though no 
definite nidus is seen, potentially effaced by the volume of 
hemorrhage.  Alternatively, given the scattered areas of 
subcortical chronic microhemorrhage, cerebral amyloid is 
considered a reasonable explanation for the cause of bleed.  In 
this case, the surrounding prominent vascularity may be due to 
reactive hyperemia. 
2. Additional 20 x 18 mm right posterior temporal subacute 
intraparenchymal hemorrhage without definite underlying 
enhancing lesion or vascular malformation seen. 
3. Small right temporal subacute subdural hematoma measuring up 
to 6 mm in 
maximal thickness, not well seen on the prior CT examination. 
4. Mild narrowing of the P1 and P 2 segments of the bilateral 
posterior 
cerebral arteries and distal M1 segment of the right middle 
cerebral artery, likely atherosclerotic. 
5. 7 x 3 mm posteriorly directed extradural aneurysm of the 
petrous segment of the left internal carotid artery. 
6. Otherwise patent intracranial arterial vasculature without 
high-grade 
stenosis or occlusion. 
7. Mild global atrophy and confluent areas of white matter 
signal abnormality in a configuration most suggestive of chronic 
small vessel ischemic disease. 
8. Mild paranasal sinus mucosal wall thickening and bilateral 
mastoid air cell opacification, nonspecific, which can be seen 
in the setting of acute 
sinusitis given the appropriate clinical context. 
  
RECOMMENDATION(S):  Continued follow-up examinations with 
gadolinium enhanced MRI to resolution of hemorrhage is 
recommended in order to definitively exclude an underlying mass 
or vascular malformation. 

 
Brief Hospital Course:
Ms. ___ is an ___ woman with a past medical history of 
dementia who presented with confusion following a fall (unclear 
etiology) with noncontrast head CT showing a right 
intraparenchymal hemorrhage in the occipital lobe. Examination 
was notable for a left homonymous hemianopsia and baseline 
mental status deficits. There was no evidence of significant 
trauma; OSH lumbar spine CT showed degenerative disease but no 
fracture per Neuroradiology. 

Etiology of bleed was most likely amyloid angiopathy in the 
setting of underlying dementia, less likely underlying mass 
lesion or hemorrhagic conversion of a prior ischemic infarct, or 
AVM/cavernoma. There was no evidence of expansion of the bleed 
on repeat imaging.  Would consider repeat imaging in ___ months 
to re-evaluate for an underlying lesion after hemorrhage 
resolves.  Aspirin and all anticoagulation was held in the 
setting of the bleed. She should continue to avoid these 
medications; can use limited NSAIDs in ___ weeks. She was 
treated with ceftriaxone for 3 days for a presumed UTI (final 
culture negative). She remained afebrile with stable vital 
signs. She had some urinary retention in addition to 
incontinence for which she was straight catheterized, this 
should be continued to be followed closely. Repeat UA was 
negative thus infection was not thought to be the cause of this 
incontinence and retention. She will be discharged to rehab 
where she will continue to work with ___ and OT. 

AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 75 mcg PO DAILY 
2. Gabapentin 100 mg PO TID 
3. Donepezil 10 mg PO QHS 
4. RisperiDONE 1 mg PO QAM 
5. RisperiDONE 1.5 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Donepezil 10 mg PO QHS  
3.  Gabapentin 100 mg PO TID  
4.  Levothyroxine Sodium 75 mcg PO DAILY  
5.  RisperiDONE 1 mg PO QAM  
6.  RisperiDONE 1.5 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right occipital intraparenchymal hemorrhage

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of confusion after a fall 
resulting from an ACUTE HEMORRHAGIC STROKE, which is bleeding in 
the brain.  

The brain is the part of your body that controls and directs all 
the other parts of your body, so damage to the brain can result 
in a variety of symptoms.  Stroke can have many different 
causes, so we assessed you for medical conditions that might 
raise your risk of having stroke. In order to prevent future 
strokes, we plan to modify those risk factors.

We are changing your medications as follows:
STOP Aspirin.
Avoids NSAIDs for the next ___ weeks

Please take your other medications as prescribed.

Please follow-up with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:

- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___